US08231946B2
Synthesis of 5-norbornene-2-methyl-(4-fluoro-cinnamate)
10 g (60 mmol) of 4-fluoro-cinnamic acid, 7.45 g (60 mmol) of 5-norbornene-2-methanol, and 0.3 g (0.02 eq.) of zirconium(IV) acetate hydroxide were added to 50 ml of toluene and stirred. The mixture was heated to 145° C. under N2 atmosphere and azeotropically refluxed for 24 hours. After the reaction, the mixture cooled down to room temperature and was added with 100 volume % of ethyl acetate. The resulting product was extracted with 1M HCl and washed again with water. The organic layer was dried with Na2SO4 and the solvent was evaporated out to give a highly viscous material. (Yield: 68%, Purity (GC): 92%)

reactant | 4-fluoro-cinnamic acid | 60 mmol, 10 g | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | 5-norbornene-2-methanol | 60 mmol, 7.45 g | C12C(CC(C=C1)C2)CO | C8H12O
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zirconium(IV) acetate hydroxide | 0.3 g, 0.02 eq. | [OH-].C(C)(=O)[O-].[Zr+4]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-norbornene 2-methyl-(4-fluoro-cinnamate) | Yield: 68% | C12CCC(C=C1)C2.CC1=C(C=CC(=O)[O-])C=CC(=C1)F | InChI=1S/C10H9FO2.C7H10/c1-7-6-9(11)4-2-8(7)3-5-10(12)13;1-2-7-4-3-6(1)5-7/h2-6H,1H3,(H,12,13);1-2,6-7H,3-5H2/p-1
